US05948809
1-{2-[4-(2-Bromo-6-methoxy-3,4-dihydronaphthalen-1-yl)phenoxy]ethyl}pyrrolidine:
Pyridinium bromide perbromide (21.22 g, 60.55 mmol) was added portionwise to a solution of 1-{2-[4-(6-methoxy-3,4-dihydronaphthalen-1-yl)phenoxy]ethyl}pyrrolidine (23 g, 72 mmol) in THF (700 mL). The reaction was stirred for 60 h. The precipitate was filtered through a Celite pad with the aid of THF. The off-white solid was dissolved in CH2Cl2 and MeOH and was filtered away from the Celite. The organic solution was washed with 0.5 N aq HCl followed by satd NaHCO3 (aq). The organic solution was dried (MgSO4), filtered, and concentrated to provide a brown solid (21.5 g, 83%). 1H NMR (250 MHz, CDCl3): d 7.14 (d, J=8.7 Hz, 2H), 6.97 (d, J=8.8 Hz, 2H), 6.71 (d, J=2.2 Hz, 1H), 6.55 (m, 2H), 4.17 (t, J=6.0 Hz, 2H), 3.77 (s, 3H), 2.96 (m, 4H), 2.66 (m, 4H), 1.85 (m, 4H).

reactant | Pyridinium bromide perbromide | 60.55 mmol, 21.22 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 1-{2-[4-(6-methoxy-3,4-dihydronaphthalen-1-yl)phenoxy]ethyl}pyrrolidine | 72 mmol, 23 g | COC=1C=C2CCC=C(C2=CC1)C1=CC=C(OCCN2CCCC2)C=C1 | C23H27NO2
solvent | THF | 700 mL | C1CCOC1 | C4H8O
product | 1-{2-[4-(2-Bromo-6-methoxy-3,4-dihydronaphthalen-1-yl)phenoxy]ethyl}pyrrolidine | 21.5 g, 83% | BrC1=C(C2=CC=C(C=C2CC1)OC)C1=CC=C(OCCN2CCCC2)C=C1 | C23H26BrNO2
